US08703946B2
[2-(5-Acetyl-3-phenoxymethyl-pyrazol-1-yl)-ethyl]-carbamic acid tert-butyl ester (0.2 g, 0.56 mmol) was dissolved in a 4M solution of HCl in 1,4-dioxane (2.12 mL) under nitrogen. The mixture was stirred at room temperature for 30 minutes and then the solvents evaporated in vacuo. The residue was basified with a saturated solution of Na2CO3 and extracted with DCM. The organic layer was separated, dried (Na2SO4), filtered and the solvents evaporated in vacuo to yield 4-methyl-2-phenoxymethyl-6,7-dihydro-pyrazolo[1,5-a]pyrazine (135 mg, 99% yield) as a brown solid that was used without further purification.

reactant | [2-(5-Acetyl-3-phenoxymethyl-pyrazol-1-yl)-ethyl]-carbamic acid tert-butyl ester | 0.56 mmol, 0.2 g | C(C)(C)(C)OC(NCCN1N=C(C=C1C(C)=O)COC1=CC=CC=C1)=O | C19H25N3O4
solvent | HCl | Cl | ClH
solvent | 1,4-dioxane | 2.12 mL | O1CCOCC1 | C4H8O2
product | 4-methyl-2-phenoxymethyl-6,7-dihydro-pyrazolo[1,5-a]pyrazine | 135 mg, 99% yield | CC=1C=2N(CCN1)N=C(C2)COC2=CC=CC=C2 | C14H15N3O
